US06589978B2
b) (2RS,5RS)-2-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-4,6-dimethyl-pyrimidine
A stirred solution of (2RS,5RS)-4-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-N-butyramidine (0.35 g, 0.87 mmol) in pentan-2,4-dione (7 ml) was heated for 3 h at 125° C. Evaporation and purification by column chromatography on silica gel (ethyl acetate) yielded the title compound (0.15 g, 38%) as a light yellow oil, MS: m/e=468.3 (M+H+).

reactant | (2RS,5RS)-4-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-N-butyramidine | 0.87 mmol, 0.35 g | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCC(=N)N | C21H26FN3O2S
solvent | pentan-2,4-dione | 7 ml | CC(CC(C)=O)=O | C5H8O2
product | (2RS,5RS)-2-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-4,6-dimethyl-pyrimidine | 0.15 g, 38% | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCC1=NC(=CC(=N1)C)C | C26H30FN3O2S
